US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{3-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)benzimidazol-1-yl]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
5-(1H-Benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one(0.28 g) and potassium carbonate(0.9 g) were added to a DMF solution(2 ml) of 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (0.43 g). The mixture was stirred at 60° C. overnight. After the reaction liquid was condensed under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=20:1→4:1). The purified product was condensed to dryness under reduced pressure to give the title compound(0.43 g) as a white amorphous solid.

reactant | 5-(1H-Benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 0.28 g | N1C(=NC2=C1C=CC=C2)CN2C(C1=C(C=C2)OC(=C1)C)=O | C16H13N3O2
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.43 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3,3,5-trimethyl-7-{3-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)benzimidazol-1-yl]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.43 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(=NC1=C2C=CC=C1)CN1C(C2=C(C=C1)OC(=C2)C)=O | C33H35N5O5
